US07541352B2
13-Cyclohexyl-10-((((dimethylamino)sulfonyl)amino)carbonyl)-3-(methyloxy)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-6-carbonyl azide.
To a mixture of the acid, 13-cyclohexyl-10-((((dimethylamino)sulfonyl)amino)carbonyl)-3-(methyloxy)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-6-carboxylic acid, (427.2 mg, 0.79 mmol) in a mixture of PhMe/CH2Cl2 (6 ml/2 ml) at r.t. under N2 was added triethylamine (117 mg, 1.16 mmol), followed by diphenylphosphoryl azide (DPPA) (320 mg, 1.16 mmol). The mixture was stirred at r.t. for 4 hr. The volatiles were then evaporated. The residue was titurated with hydrochloric acid (3× 10 ml, 1N), dried and the crude azide, 13-cyclohexyl-10-((((dimethylamino)sulfonyl)amino)carbonyl)-3-(methyloxy)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-6-carbonyl azide, was used without further purification Analytical HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Flow Rate=5 ml/min, Column: Xterra MS C18 S7 3.0×50 mm; LC/MS: (ES+) m/z (M+H)+=565.21, HPLC Rt=1.988 min.

reactant | 13-cyclohexyl-10-((((dimethylamino)sulfonyl)amino)carbonyl)-3-(methyloxy)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-6-carboxylic acid | 0.79 mmol, 427.2 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)C(=O)O)C=C(C=C1)OC)C(=O)NS(=O)(=O)N(C)C | C28H33N3O6S
reactant | triethylamine | 1.16 mmol, 117 mg | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.16 mmol, 320 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | PhMe CH2Cl2 | 6 ml | C1(=CC=CC=C1)C.C(Cl)Cl
product | 13-Cyclohexyl-10-((((dimethylamino)sulfonyl)amino)carbonyl)-3-(methyloxy)-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-6-carbonyl azide | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)C(=O)N=[N+]=[N-])C=C(C=C1)OC)C(=O)NS(=O)(=O)N(C)C | C28H32N6O5S
